US05641785
6.1. 1-Benzoyl-2-cyano-6-methoxy-1,2-dihydroquinoline
A solution of 10 g (63 mmol) of 6-methoxyquinoline in 80 ml of dichloromethane is mixed with a solution of 12.4 g (188 mmol) of potassium cyanide, and 14.5 ml (125 mmol) of benzoyl chloride are then added slowly. The mixture is stirred for 18 h, the organic phase is then separated off and the aqueous phase is extracted with dichloromethane. The organic phases are washed with aqueous 5% hydrochloric acid solution and then with water, with aqueous sodium hydroxide solution and again with water, they are dried over sodium sulphate and the solvent is evaporated off under reduced pressure. The oil obtained is crystallized from 95% ethanol. 13.4 g of product are obtained.

reactant | 6-methoxyquinoline | 63 mmol, 10 g | COC=1C=C2C=CC=NC2=CC1 | C10H9NO
reactant | potassium cyanide | 188 mmol, 12.4 g | [C-]#N.[K+]
reactant | benzoyl chloride | 125 mmol, 14.5 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 1-Benzoyl-2-cyano-6-methoxy-1,2-dihydroquinoline | 13.4 g | C(C1=CC=CC=C1)(=O)N1C(C=CC2=CC(=CC=C12)OC)C#N | C18H14N2O2
